US04409214
To a suspension of phosphorus pentachloride (15.5 g) in methylene chloride (200 ml) was added dropwise pyridine (5.9 g) at 5° to 10° C. with stirring, and the stirring was continued at 5° C. for 20 minutes. Thereto was added at a time benzhydryl 7-(5-benzamido-5-benzhydryloxycarbonylpentanamido)-3-vinyl-3-cephem-4-carboxylate (20 g) at 5° C., and the mixture was stirred at the same temperature for 2 hours. To the reaction mixture was added gradually methanol (120 ml) at -40° C., followed by stirring at -20° to -10° C. for an hour. Removal of the solvent gave a residue, to which ethyl acetate (300 ml) and water (50 ml) were added. The mixture was stirred under ice-cooling for a while, and the precipitated crystals were collected by filtration and then washed with isopropyl alcohol to obtain benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride (8.4 g), mp 180°-195° C. (dec.).

reactant | phosphorus pentachloride | 15.5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | pyridine | 5.9 g | N1=CC=CC=C1 | C5H5N
reactant | benzhydryl 7-(5-benzamido-5-benzhydryloxycarbonylpentanamido)-3-vinyl-3-cephem-4-carboxylate | 20 g | C(C1=CC=CC=C1)(=O)NC(CCCC(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C48H43N3O7S
reactant | methanol | 120 ml | CO | CH4O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride | 8.4 g | Cl.NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | InChI=1S/C22H20N2O3S.ClH/c1-2-14-13-28-21-17(23)20(25)24(21)18(14)22(26)27-19(15-9-5-3-6-10-15)16-11-7-4-8-12-16;/h2-12,17,19,21H,1,13,23H2;1H/t17?,21-;/m1./s1
